US05489570
A solution of n-butyllithium (5.1 ml of a 2.5M solution in hexanes) was added to a stirred suspension of 1,3-benzodioxole-5-carboxylic acid (1.0 g) in anhydrous tetrahydrofuran under an inert atmosphere keeping the temperature-below -60° C. The mixture was then stirred at -78° C. for 7 hours and methyl iodide (0.50 g) added and the mixture stirred at room temperature for 18 hours. The mixture was then treated with water and 2N sodium hydroxide. The aqueous phase was washed with ether, acidified and filtered. The solid was washed with hexane and dried to give 4-methyl-1,3-benzodioxole-5-carboxylic acid as a cream solid (0.91 g), m.p. 217°-219° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,3-benzodioxole-5-carboxylic acid | 1.0 g | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | methyl iodide | 0.50 g | CI | CH3I
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-methyl-1,3-benzodioxole-5-carboxylic acid | 0.91 g | CC1=C(C=CC=2OCOC21)C(=O)O | C9H8O4
